US08183246B2
6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl](methyl)amino}hexanoic acid methyl ester
Dissolve 200 mg (0.463 mmol) [(5-bromo-6-phenylfuro[2,3-d]pyrimidin-4-yl)(methyl)amino]hexanoic acid methyl ester in 1.25 ml DMSO and 0.125 ml methanol. Add successively, under argon at RT, 16.2 mg (0.023 mmol) bis(triphenylphosphine)palladium(II) chloride, 127 mg (0.925 mmol) potassium carbonate and 105.4 mg (0.694 mmol) 4-methoxyphenylboronic acid. Heat the mixture to 80° C. for approx. 3 h, stirring vigorously. After cooling, purify the reaction mixture directly by preparative RP-HPLC (gradient: acetonitrile/water). 133.9 mg (63% of theor.) of the target product is obtained.

reactant | [(5-bromo-6-phenylfuro[2,3-d]pyrimidin-4-yl)(methyl)amino]hexanoic acid methyl ester | 0.463 mmol, 200 mg | COC(C(CCCC)N(C)C=1C2=C(N=CN1)OC(=C2Br)C2=CC=CC=C2)=O | C20H22BrN3O3
reactant | potassium carbonate | 0.925 mmol, 127 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 0.694 mmol, 105.4 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | DMSO | 1.25 ml | CS(=O)C | C2H6OS
solvent | methanol | 0.125 ml | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.023 mmol, 16.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl](methyl)amino}hexanoic acid methyl ester | COC(CCCCCN(C)C=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)=O | C27H29N3O4
